US07816391B2
1-(4-bromophenyl)-5-cyclopropyl-pyrazole-4-carboxylic acid (Intermediate#30) (237 mg, 0.77 mmol) was suspended in DCM (5 mL). One drop of DMF was added and then oxalyl chloride (200 μL, 2.32 mmol) was added slowly. The reaction mixture was stiffed at ambient temperature for 4 h and then evaporated under reduced pressure. The residue was dissolved in DCM (5 mL) and added to a solution of cyclohexylamine (97 μL, 0.85 mmol) and DIPEA (403 μL, 2.32 mmol) in DCM (5 mL). The mixture was stirred at ambient for 24 h and then water, (10 mL) was added and the mixture passed through a phase separating filter. The product was recovered from the filtrate by flash column chromatography (SiO2, elution gradient 0-100% EtOAc in isohexane). Pure fractions were combined and evaporated to give 1-(4-bromophenyl)-N-cyclohexyl-5-cyclopropyl-pyrazole-4-carboxamide as white solid. (277 mg, 92%)

reactant | 1-(4-bromophenyl)-5-cyclopropyl-pyrazole-4-carboxylic acid | 0.77 mmol, 237 mg | BrC1=CC=C(C=C1)N1N=CC(=C1C1CC1)C(=O)O | C13H11BrN2O2
reactant | oxalyl chloride | 2.32 mmol, 200 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | cyclohexylamine | 0.85 mmol, 97 μL | C1(CCCCC1)N | C6H13N
reactant | DIPEA | 2.32 mmol, 403 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | One drop | CN(C)C=O | C3H7NO
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | water | 10 mL | O | H2O
product | 1-(4-bromophenyl)-N-cyclohexyl-5-cyclopropyl-pyrazole-4-carboxamide | BrC1=CC=C(C=C1)N1N=CC(=C1C1CC1)C(=O)NC1CCCCC1 | C19H22BrN3O
